US07687515B2
B: 6-Chloro-2-tetrahydropyranyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile
6-Chloro-1H-imidazo[4,5-c]pyridine-4-carbonitrile (1 g) was dissolved in ethyl acetate (20 ml). To above solution was added 3,4-dihydro-2H-pyran (1 ml) and tosylic acid hydrate (50 mg). The mixture was heated at 60° C. for 10 hours, than washed with sodium bicarbonate (5%, 10 mL). The organic layer dried over sodium sulphate, solvent removed to give the title compound. 1H NMR (DMSO) □ 8.92 (s, 1H), 8.30 s, 1H), 5.81 (d, 1H), 4.00 (m, 1H), 3.78 (m, 1H), 2.18 (m, 1H), 2.07 (m, 1H), 1.67 (m, 4H).

reactant | 6-Chloro-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 1 g | ClC1=CC2=C(C(=N1)C#N)N=CN2 | C7H3ClN4
reactant | 3,4-dihydro-2H-pyran | 1 ml | O1CCCC=C1 | C5H8O
reactant | tosylic acid hydrate | 50 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-2-tetrahydropyranyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | ClC1=CC2=C(C(=N1)C#N)N=C(N2)C2OCCCC2 | C12H11ClN4O
